US07053082B1
5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4.5-h]-[2,3]benzodiazepine-8-carboxylic acid-imidazolide
3.67 g (10.0 millimoles) of 5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine-8-carboxylic acid are suspended in 75 ml of anhydrous dimethyl-formamide and 1.95 g (12.0 millimoles) of 1,1′-carbonyl-diimidazole are added in one portion. The reaction mixture is stirred at room temperature for 5 hours and cooled with icecold water. The precipitated product is filtered and washed with 50 ml of diethyl ether. Thus 3.21 g of the desired compound are obtained, yield 77%, mp.: 132–136° C.

reactant | 5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4,5-h][2,3]benzodiazepine-8-carboxylic acid | 10.0 millimoles, 3.67 g | CC=1C=C(C=CC1[N+](=O)[O-])C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C(=O)O | C18H13N3O6
reactant | 1,1′-carbonyl-diimidazole | 12.0 millimoles, 1.95 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | water | O | H2O
solvent | dimethyl-formamide | 75 ml | CN(C=O)C | C3H7NO
product | 5-(3-methyl-4-nitro-phenyl)-9H-1,3-dioxolo[4.5-h]-[2,3]benzodiazepine-8-carboxylic acid imidazolide | 3.21 g, yield 77% | CC=1C=C(C=CC1[N+](=O)[O-])C1=NN=C(CC2=C1C=C1C(=C2)OCO1)C(=O)O.[N-]1C=NC=C1 | InChI=1S/C18H13N3O6.C3H3N2/c1-9-4-10(2-3-14(9)21(24)25)17-12-7-16-15(26-8-27-16)6-11(12)5-13(18(22)23)19-20-17;1-2-5-3-4-1/h2-4,6-7H,5,8H2,1H3,(H,22,23);1-3H/q;-1
